data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7373,"CO[PH](I)(I)[O+:1](C)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9391,"CC1=[N:1]CCC2=CC=CC=C21.CCC1(OP(=O)(Cl)Cl)NCCC2=CC=C[CH+:2][C:3]21[H:4].[Cl-]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,6247,"CC[CH:1](C)[Br:2].CN(C)[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1372,"CCOC(=O)CCC(COC1=C(OC)C2=C(C=CC=C2)C(C)=C1)=[O:1].O=S(=O)(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9285,"C[C:1]1(C)[O+:2]([B-](F)(F)F)CCC[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1058,"CC(=O)[O-:1].CC1=C[CH:2]([H:3])[C:4](C)=[N+:5]1C1=C(Br)C=CC=C1.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4401,"CCCC=C(OC)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9622,"C1CCC2=[NH+]CCCN2CC1.CC(=O)NC1=CC=C(S(=O)(=O)N[N:1]=[N:2][C-:3](C(=O)OC2C(=O)N(CC3=CC=CC=C3)C3=C2C=CC=C3)C2=CC=CC=C2)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7851,"CC(C)=O.CC1=CC=C(C2CC[C:1]3(CC2)[OH+:2]CC[O:3]3)C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4414,"CC(C)CCCC(C)C1CCC2C3CCC4CC(O[P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)CCC4(C)C3CCC12C.CCCCCCCCCCCCOC1=CC=C(C(=O)[O:1][H:2])C=C1.CCOC(=O)N[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7510,"CCC=C[CH+:1][CH2:2][H:3].[OH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,181,"CC(C)(C)O.CCO[C:1](C1(C)CCC[CH:2]=[C:3]1[O-:4])=[O:5]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,3299,"CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)[C:1](OP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1)=[O:2].CC[NH+](CC)CC.[N-]=[N+]=[N-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5469,"CC(O)CCC1C(=[O:1])N(C2=CC=CC=C2)C1C1=CC=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10247,"[O-][CH+:1][SH:2]|(2, 1)"
train,pmechdb_split_0,0,4303,"CC(C(C)[OH:1])[Si](C)(C)C.O=C(O[C:2](C(F)(F)F)=[O:3])C(F)(F)F.O=C([O-])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4206,"CC1=CC=C(S(=O)(=O)[O-])C=C1.N#CC1=CC([CH:1]=[O+:2]CCO)=CC(OC2=C(F)C(CO)=CC=C2Br)=C1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9639,"CC(=O)[C:1](C(O)C(O)C(O)C(O)C(O)CO)([H:2])[C:3](C)=[O:4].O=C(O)[O-:5].[Na+]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4104,"C1=CC2=CC=C([CH:1]=[O:2])N=C2C=C1.CC(C)C1CC(F)C2=N[N+](C3=C(F)C(F)=C(F)C(F)=C3F)=[C-:3]N21.CCOC(=O)C(=O)C=CC1=CC=CC=C1.CC[NH+](C(C)C)C(C)C.F[B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3319,"CC[O:1][C:2](C)(C)[Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3263,"C1C[CH:1]([H:2])[C:3](=[N+:4]2CCCC2)C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,157,"CO[P:1](Cl)Cl.C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4245,"C1=CC=C(C=C[CH2+:1])C=C1.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,10016,"CCC[CH:1]=[C:2](C1=C(O)C=CC(Br)=C1)[N:3]1CCCC1C1=NN=NN1.O.O=C(O)C(F)(F)F.O=[N+]([O-])C1=CC=C([CH:4]=[O:5])C=C1|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9541,"CC(=O)CCC(=O)C1=CC(C(=O)CCC(C)=O)=CC([C:1]2=[NH+:2]C(C)=C[CH:3]2[H:4])=C1.CC(=O)[O-:5].O.O=C[O-]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7006,"CCO.CCOC(=O)CC1=N[C:1](=[S:2])[N:3]([H:4])N1.[Na+].[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,10141,"CO[P:1](=O)(CC(C)(C)[O-:2])OC|(2, 1)"
train,pmechdb_split_0,0,698,"CC(C)[N-:1]C(C)C.CC[C:2]1([H:3])CCCC(C)[CH:4]1[Cl:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1086,"C#CC[O:1][K].CS[C:2]([S+](C)C)=[CH:3][C:4](C1=CC=CC=C1)=[O:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6544,"CCC(CC1CCCCC1)C(CC(=O)OC(C)(C)C)[O+:1]([Si](C)(C)C)[Ti-:2]([Cl])([Cl])([Cl])[Cl]|((2, 1), 1)"
train,pmechdb_split_0,0,388,"CC(C(C[C:1](C1=CC=CC=C1)=[OH+:2])C(=O)OCC1=CC=CC=C1)=[O:3].O=S(=O)([O-])C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6613,"O=S(=O)(O)[O-:1].OC1CCC[O+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10176,"C[N-][CH+:1][S:2]C|(2, 1)"
train,pmechdb_split_0,0,1549,"CC(C)=C1CCC2(C)C(=[C+:1]C)CCC2C1(C)C.O.O=C[O-:2]|(2, 1)"
train,pmechdb_split_0,0,9510,"CC(=O)O[C:1](C)=[O:2].CCC(C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6437,"C1=CC=C(CCC=[O:1])C=C1.C=C=C(C)[Si](C)(C)C.[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,232,"C1C[CH:1]=[C:2]([O-:3])C1.C[CH:4]=[O:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7091,"CC[O:1][H:2].Cl[C-:3](Cl)Cl|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,588,"Br[B:1](Br)Br.C=CCN1CCC23C4=C5C=CC([O:2]C)=C4OC2C(=O)CCC3(O)C1C5|(2, 1)"
train,pmechdb_split_0,0,3228,"C[C:1](C)=[S+:2]CCS.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2521,"O=S(=O)(O)[C:1]1([H:2])C2=CC=CC=C2[C+:3](Br)[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,9325,"CS(=O)(=O)O[Si-:1](C)(C)(C)[OH+:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,4755,"CCOC(=O)[C:1](C)([H:2])[C:3](OCC)=[O:4].IC(I)I.[H:5][Na:6]|((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7255,"CC(C)C(C)[OH:1].O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
